US05641778
A solution of (2S,4S,5S,7R)-N-{4-(tert-butoxycarbonyl)amino-5-hydroxy-2-isopropyl-7-[(2-morpholin-4-ylethyl)-carbamoyl]-octyl}-2-(3-methoxypropoxy)-benzamide (105 mg) in 4N hydrochloric acid solution in dioxane (4 ml) is stirred at 0° C. for one hour. The reaction mixture is then lyophilised. (2S,4S,5S,7R)-N-[4-Amino-5-hydroxy-2-methyl-7-[(2-morpholin-4-ylethyl)-carbamoyl]-octyl}-2-(3-methoxypropoxy)-benzamide dihydrochloride is obtained in the form of a beige powder: Rf (dichloromethane-methanol 8:2)=0.28. HPLC Rt =7.73 min. MS(FAB) m/e 551 (M+ +1).

reactant | (2S,4S,5S,7R)-N-{4-(tert-butoxycarbonyl)amino-5-hydroxy-2-isopropyl-7-[(2-morpholin-4-ylethyl)-carbamoyl]-octyl}-2-(3-methoxypropoxy)-benzamide | 105 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@H](CNC(C1=C(C=CC=C1)OCCCOC)=O)C(C)C)[C@H](C[C@@H](C)C(NCCN1CCOCC1)=O)O | C34H58N4O8
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | (2S,4S,5S,7R)-N-[4-Amino-5-hydroxy-2-methyl-7-[(2-morpholin-4-ylethyl)-carbamoyl]-octyl}-2-(3-methoxypropoxy)-benzamide dihydrochloride | Cl.Cl.N[C@@H](C[C@@H](CNC(C1=C(C=CC=C1)OCCCOC)=O)C)[C@H](C[C@@H](C)C(NCCN1CCOCC1)=O)O | InChI=1S/C27H46N4O6.2ClH/c1-20(19-30-27(34)22-7-4-5-8-25(22)37-14-6-13-35-3)17-23(28)24(32)18-21(2)26(33)29-9-10-31-11-15-36-16-12-31;;/h4-5,7-8,20-21,23-24,32H,6,9-19,28H2,1-3H3,(H,29,33)(H,30,34);2*1H/t20-,21+,23-,24-;;/m0../s1
